US08530477B2
1-(4-Bromophenyl)-4-methanesulfonylpiperazine (2 g, 6.3 mmol) is placed in 42 ml of DME. bis(Pinacolato)diboron (1.91 g, 7.52 mmol), potassium acetate (1.85 g, 18.8 mmol) and dichloro(diphenylphosphinoferrocene)palladium (0.511 g, 0.63 mmol) are added. The reaction medium is refluxed for 16 h. After hydrolysis and extraction with ethyl acetate, the organic phase is filtered on Celite®, washed with a saturated aqueous sodium chloride solution, dried over MgSO4 and concentrated to dryness. The crude product obtained is chromatographed on silica gel, elution being carried out with a dichloromethane/ethyl acetate mixture (95/5). 1.8 g of 1-methanesulfonyl-4-[4-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)phenyl]piperazine are obtained.

reactant | 1-(4-Bromophenyl)-4-methanesulfonylpiperazine | 6.3 mmol, 2 g | BrC1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)C | C11H15BrN2O2S
reactant | bis(Pinacolato)diboron | 7.52 mmol, 1.91 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 18.8 mmol, 1.85 g | C(C)(=O)[O-].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DME | 42 ml | COCCOC | C4H10O2
product | 1-methanesulfonyl-4-[4-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)phenyl]piperazine | 1.8 g | CS(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C17H27BN2O4S
